US04113871
By the reaction of ethyl 7-[4-(2-aminoethyl)-phenyl]-heptane-carboxylate hydrochloride (m.p. 137°-139° C.) with 5-chloro-2-methoxybenzoyl chloride, there is obtained 7-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-heptane-carboxylic acid; m.p. 103°-106° C., after recrystallization from diethyl ether.

reactant | ethyl 7-[4-(2-aminoethyl)-phenyl]-heptane-carboxylate hydrochloride | Cl.NCCC1=CC=C(C=C1)CCCCCCCC(=O)OCC
reactant | 5-chloro-2-methoxybenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
product | 7-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-heptane-carboxylic acid | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)CCCCCCCC(=O)O)C1)OC | C24H30ClNO4
